US06441017B1
Step B: Methyl 2-Acetamido-3-nitrocinnamate
N-Acetyl-2-bromo-6-nitroaniline, as described above in Step A, (6.3 g, 24.3 mmol), acrylic acid methyl ester (4.4 mL, 48.64 mmol), triethylamine (4.2 mL, 30.4 mmol) and palladium (11) acetate (275 mg, 1.22 mmol) were dissolved in acetonitrile (75 mL) and heated to 75° C. for 18 hours. The cooled reaction mixture was poured into saturated aqueous Na2CO3 and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was crystallized from MeOH—H2O to yield the above-titled compound.

reactant | N-Acetyl-2-bromo-6-nitroaniline | C(C)(=O)NC1=C(C=CC=C1[N+](=O)[O-])Br | C8H7BrN2O3
reactant | acrylic acid methyl ester | 24.3 mmol, 4.4 mL, 6.3 g | COC(C=C)=O | C4H6O2
reactant | triethylamine | 30.4 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
catalyst | palladium (11) acetate | 1.22 mmol, 275 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 2-Acetamido-3-nitrocinnamate | C(C)(=O)NC1=C(C=CC(=O)OC)C=CC=C1[N+](=O)[O-] | C12H12N2O5
